********************************************************************
* Schottky-Barrier Graphene NanoRibbon Field Effect Transistors
*             HSPICE Model
*	     
*
*   
*   Copyright University of Illinois at Urbana-Champaign 2013
*   Morteza Gholipour, Ying-Yu Chen, Amit Sangai, Prof. Deming Chen
*   All Rights Reserved.
*
*
*   
*   File name: sbgnrfet-SG.lib
********************************************************************

********************************************************************
* LICENSE AGREEMENT
* University of Illinois at Urbana-Champaign and the authors 
* provide these model files to you subject to the License Agreement, 
* which may be updated by us from time to time without notice to you. 
********************************************************************

.lib GNRFET

.protect

.lib 'parameters.lib' parameters

.subckt gnrfetsb nd ng ns nb nRib=4 N=12 L=15n Tox=1n sp=2n p=0 gates_tied='0' Tox2=20n

*************************
* Modeling
*************************

* Widths
.param WGNR = '(n/2 + 0.5) * sqrt(3) * 0.144e-9';
.param Wgate = 'WGNR + 2 * sp'

* Subbands
* Can be extended by using printsbbd.m in MATLAB
* Replace the contents between "SUBBAND DEFINITION START" and "SUBBAND DEFINITION END" with subbands.txt generated in MATLAB
************** SUBBAND DEFINITION START
.if (N == 6)
    .param sbbd1a = '5.536744e-001'
    .param sbbd2a = '1.674362e+000'
    .param sbbd3a = '2.130378e+000'
    .param mass1a = '9.320856e-032'
    .param mass2a = '7.897857e-031'
    .param mass3a = '2.481861e-031'
    .param sbbd1b = '1.620000e-001'
    .param sbbd2b = '1.922537e+000'
    .param sbbd3b = '2.916000e+000'
    .param mass1b = '3.400758e-032'
    .param mass2b = '2.330101e-031'
    .param mass3b = '1.705214e-022'
.elseif (N == 7)
    .param sbbd1a = '7.717851e-001'
    .param sbbd2a = '1.037377e+000'
    .param sbbd3a = '2.265225e+000'
    .param mass1a = '2.116837e-031'
    .param mass2a = '1.539863e-031'
    .param mass3a = '2.573515e-031'
    .param sbbd1b = '5.536744e-001'
    .param sbbd2b = '1.674362e+000'
    .param sbbd3b = '2.130378e+000'
    .param mass1b = '9.320856e-032'
    .param mass2b = '7.897857e-031'
    .param mass3b = '2.481861e-031'
.elseif (N == 8)
    .param sbbd1a = '1.080000e-001'
    .param sbbd2a = '1.377143e+000'
    .param sbbd3a = '1.901958e+000'
    .param mass1a = '2.267172e-032'
    .param mass2a = '1.886929e-031'
    .param mass3a = '1.149639e-030'
    .param sbbd1b = '7.717851e-001'
    .param sbbd2b = '1.037377e+000'
    .param sbbd3b = '2.265225e+000'
    .param mass1b = '2.116837e-031'
    .param mass2b = '1.539863e-031'
    .param mass3b = '2.573515e-031'
.elseif (N == 9)
    .param sbbd1a = '3.892160e-001'
    .param sbbd2a = '1.148533e+000'
    .param sbbd3a = '1.623916e+000'
    .param mass1a = '6.950287e-032'
    .param mass2a = '3.901141e-031'
    .param mass3a = '2.106865e-031'
    .param sbbd1b = '1.080000e-001'
    .param sbbd2b = '1.377143e+000'
    .param sbbd3b = '1.901958e+000'
    .param mass1b = '2.267172e-032'
    .param mass2b = '1.886929e-031'
    .param mass3b = '1.149639e-030'
.elseif (N == 10)
    .param sbbd1a = '5.542453e-001'
    .param sbbd2a = '7.689552e-001'
    .param sbbd3a = '1.808332e+000'
    .param mass1a = '1.400395e-031'
    .param mass2a = '1.232488e-031'
    .param mass3a = '2.256222e-031'
    .param sbbd1b = '3.892160e-001'
    .param sbbd2b = '1.148533e+000'
    .param sbbd3b = '1.623916e+000'
    .param mass1b = '6.950287e-032'
    .param mass2b = '3.901141e-031'
    .param mass3b = '2.106865e-031'
.elseif (N == 11)
    .param sbbd1a = '8.100001e-002'
    .param sbbd2a = '1.064377e+000'
    .param sbbd3a = '1.403143e+000'
    .param mass1a = '1.700379e-032'
    .param mass2a = '1.579942e-031'
    .param mass3a = '5.690314e-031'
    .param sbbd1b = '5.542453e-001'
    .param sbbd2b = '7.689552e-001'
    .param sbbd3b = '1.808332e+000'
    .param mass1b = '1.400395e-031'
    .param mass2b = '1.232488e-031'
    .param mass3b = '2.256222e-031'
.elseif (N == 12)
    .param sbbd1a = '3.000278e-001'
    .param sbbd2a = '8.722902e-001'
    .param sbbd3a = '1.298120e+000'
    .param mass1a = '5.543631e-032'
    .param mass2a = '2.581945e-031'
    .param mass3a = '1.820319e-031'
    .param sbbd1b = '8.100001e-002'
    .param sbbd2b = '1.064377e+000'
    .param sbbd3b = '1.403143e+000'
    .param mass1b = '1.700379e-032'
    .param mass2b = '1.579942e-031'
    .param mass3b = '5.690314e-031'
.elseif (N == 13)
    .param sbbd1a = '4.321722e-001'
    .param sbbd2a = '6.102597e-001'
    .param sbbd3a = '1.485904e+000'
    .param mass1a = '1.045476e-031'
    .param mass2a = '1.027344e-031'
    .param mass3a = '1.994841e-031'
    .param sbbd1b = '3.000278e-001'
    .param sbbd2b = '8.722902e-001'
    .param sbbd3b = '1.298120e+000'
    .param mass1b = '5.543631e-032'
    .param mass2b = '2.581945e-031'
    .param mass3b = '1.820319e-031'
.elseif (N == 14)
    .param sbbd1a = '6.480001e-002'
    .param sbbd2a = '8.655896e-001'
    .param sbbd3a = '1.109458e+000'
    .param mass1a = '1.360303e-032'
    .param mass2a = '1.357788e-031'
    .param mass3a = '3.768418e-031'
    .param sbbd1b = '4.321722e-001'
    .param sbbd2b = '6.102597e-001'
    .param sbbd3b = '1.485904e+000'
    .param mass1b = '1.045476e-031'
    .param mass2b = '1.027344e-031'
    .param mass3b = '1.994841e-031'
.elseif (N == 15)
    .param sbbd1a = '2.440806e-001'
    .param sbbd2a = '7.026473e-001'
    .param sbbd3a = '1.077877e+000'
    .param mass1a = '4.611317e-032'
    .param mass2a = '1.927207e-031'
    .param mass3a = '1.599981e-031'
    .param sbbd1b = '6.480001e-002'
    .param sbbd2b = '8.655896e-001'
    .param sbbd3b = '1.109458e+000'
    .param mass1b = '1.360303e-032'
    .param mass2b = '1.357788e-031'
    .param mass3b = '3.768418e-031'
.elseif (N == 16)
    .param sbbd1a = '3.541016e-001'
    .param sbbd2a = '5.056780e-001'
    .param sbbd3a = '1.256048e+000'
    .param mass1a = '8.338319e-032'
    .param mass2a = '8.807460e-032'
    .param mass3a = '1.783968e-031'
    .param sbbd1b = '2.440806e-001'
    .param sbbd2b = '7.026473e-001'
    .param sbbd3b = '1.077877e+000'
    .param mass1b = '4.611317e-032'
    .param mass2b = '1.927207e-031'
    .param mass3b = '1.599981e-031'
.elseif (N == 17)
    .param sbbd1a = '5.400001e-002'
    .param sbbd2a = '7.288017e-001'
    .param sbbd3a = '9.166688e-001'
    .param mass1a = '1.133586e-032'
    .param mass2a = '1.190070e-031'
    .param mass3a = '2.813141e-031'
    .param sbbd1b = '3.541016e-001'
    .param sbbd2b = '5.056780e-001'
    .param sbbd3b = '1.256048e+000'
    .param mass1b = '8.338319e-032'
    .param mass2b = '8.807460e-032'
    .param mass3b = '1.783968e-031'
.elseif (N == 18)
    .param sbbd1a = '2.057149e-001'
    .param sbbd2a = '5.880488e-001'
    .param sbbd3a = '9.203988e-001'
    .param mass1a = '3.947755e-032'
    .param mass2a = '1.536552e-031'
    .param mass3a = '1.426387e-031'
    .param sbbd1b = '5.400001e-002'
    .param sbbd2b = '7.288017e-001'
    .param sbbd3b = '9.166688e-001'
    .param mass1b = '1.133586e-032'
    .param mass2b = '1.190070e-031'
    .param mass3b = '2.813141e-031'
.elseif (N == 19)
    .param sbbd1a = '2.998956e-001'
    .param sbbd2a = '4.316282e-001'
    .param sbbd3a = '1.085977e+000'
    .param mass1a = '6.933523e-032'
    .param mass2a = '7.707647e-032'
    .param mass3a = '1.612004e-031'
    .param sbbd1b = '2.057149e-001'
    .param sbbd2b = '5.880488e-001'
    .param sbbd3b = '9.203988e-001'
    .param mass1b = '3.947755e-032'
    .param mass2b = '1.536552e-031'
    .param mass3b = '1.426387e-031'
.elseif (N == 20)
    .param sbbd1a = '4.628573e-002'
    .param sbbd2a = '6.291214e-001'
    .param sbbd3a = '7.806355e-001'
    .param mass1a = '9.716453e-033'
    .param mass2a = '1.059097e-031'
    .param mass3a = '2.242748e-031'
    .param sbbd1b = '2.998956e-001'
    .param sbbd2b = '4.316282e-001'
    .param sbbd3b = '1.085977e+000'
    .param mass1b = '6.933523e-032'
    .param mass2b = '7.707647e-032'
    .param mass3b = '1.612004e-031'
.endif

************** SUBBAND DEFINITION END

.param to6(x) = 'x*x*x*x*x*x'
.param to8(x) = 'x*x*x*x*x*x*x*x'
.param equisbbd(sbbda, sbbdb) =  'sbbda*(to8(1-p))+sbbdb*(1-to8(1-p))'
.param sbbd1 = 'equisbbd(sbbd1a, sbbd1b)'
.param sbbd2 = 'equisbbd(sbbd2a, sbbd2b)'
.param sbbd3 = 'equisbbd(sbbd3a, sbbd3b)'
.param mass1 = 'equisbbd(mass1a, mass1b)'
.param mass2 = 'equisbbd(mass2a, mass2b)'
.param mass3 = 'equisbbd(mass3a, mass3b)'

******************** Schottky Barriers
***************************************
.param e_lsb = 'equisbbd(sbbd1a, sbbd1b)'		$'3.000278e-001'
.param M_lsb = 'equisbbd(mass1a, mass1b)/P__q'		$'0.0034592e-10'
.param tox_to_lambda = '2.5'	lambda = '(tox_to_lambda*Tox)/P__pi'		$'1.3e-9'
.param K2 = '2*lambda*sqrt(M_lsb/e_lsb)/P__hbar'
.param k1 = '2/(P__pi*P__hbar)*sqrt(M_lsb/2)'
.param u(x) = '0.5*(1+sgn(x))'
****************************************
.param f(x) = '1/(1+exp(x))'
****************************************
.param avoid_vch = '1e-5'

.param Trans(Asd, Ep) = 'U(Asd-Ep)*(U(Asd-2*e_lsb-Ep)*exp(K2*(Ep+2*e_lsb)*P__pi*(sqrt(1-2*e_lsb/(Ep+2*e_lsb))-(1-e_lsb/(Ep+2*e_lsb))))+U(-Asd+2*e_lsb+Ep)*exp(K2*Asd*(-((e_lsb+Ep)/Asd)*(P__pi/2-atan((((e_lsb+Ep)/Asd)-1)/(1/Asd*sqrt(e_lsb*e_lsb - pow(e_lsb+Ep-Asd, 2)))))-(1/Asd*sqrt(e_lsb*e_lsb - pow(e_lsb+Ep-Asd, 2)))+(1/Asd*sqrt(Ep*(2*e_lsb+Ep)))*(U(1/Asd/Asd*(e_lsb*e_lsb-(e_lsb+Ep)*(e_lsb+Ep)+Asd*(e_lsb+Ep)))*P__pi-atan((1/Asd*sqrt(Ep*(2*e_lsb+Ep)))*(1/Asd*sqrt(e_lsb*e_lsb - pow(e_lsb+Ep-Asd, 2)))/(1/Asd/Asd*(e_lsb*e_lsb-(e_lsb+Ep)*(e_lsb+Ep)+Asd*(e_lsb+Ep))))))))+U(-Asd+Ep)*1'


.param Trans_BB_0 = 'exp(-P__pi*K2*e_lsb)'

.param Trans_0(Asd) = 'U(Asd)*(U(Asd-2*e_lsb)*Trans_BB_0+U(-Asd+2*e_lsb)*exp(K2*Asd*(-e_lsb/Asd*(P__pi/2-atan((e_lsb/Asd-1)/sqrt(2*e_lsb/Asd-1)))-sqrt(2*e_lsb/Asd-1))))+U(-Asd)*1'

.param Emax(x) = 'U(-0.05-x)*0.026+U(x-0.2)*(0.9323*x-0.0318)+(1-U(-0.05-x)-U(x-0.2))*(1.807*x*x+0.2715*x+0.03434)'
.param current_sign(Vd) = 'sgn(Vd)'
*****************************************

.param Ec2_ratio = 10
.param avoid = '1e-20' $-mgg

**************** Electron charge ************
.param TF_e_0(vch, vs, vd) = '1/(1/(1+1/(1-Trans_0(vch+avoid_vch-vd)))+1/(Trans_0(vch+avoid_vch-vs)*(2/Trans_0(vch+avoid_vch-vd)-1)))*f(-(vch-e_lsb-vs)/kT)+1/(1/(1+1/(1-Trans_0(vch+avoid_vch-vs)))+1/(Trans_0(vch+avoid_vch-vd)*(2/Trans_0(vch+avoid_vch-vs)-1)))*f(-(vch-e_lsb-vd)/kT)' $--mgg
.param TF_e_Ec1_e(vch, vs, vd) = '1/(1/(1+1/(1-Trans(vch+avoid_vch-vd, Emax(vch-e_lsb-min(vs, vd)))))+1/(Trans(vch+avoid_vch-vs, Emax(vch-e_lsb-min(vs, vd)))*(2/Trans(vch+avoid_vch-vd, Emax(vch-e_lsb-min(vs, vd)))-1)))*f((Emax(vch-e_lsb-min(vs, vd))-(vch-e_lsb-vs))/kT)+1/(1/(1+1/(1-Trans(vch+avoid_vch-vs, Emax(vch-e_lsb-min(vs, vd)))))+1/(Trans(vch+avoid_vch-vd, Emax(vch-e_lsb-min(vs, vd)))*(2/Trans(vch+avoid_vch-vs, Emax(vch-e_lsb-min(vs, vd)))-1)))*f((Emax(vch-e_lsb-min(vs, vd))-(vch-e_lsb-vd))/kT)' $--mgg

**************** Hole charge ************
.param TF_h_0(vch, vs, vd) = '1/(1/(1+1/(1-Trans_0(-vch-avoid_vch+vd)))+1/(Trans_0(-vch-avoid_vch+vs)*(2/Trans_0(-vch-avoid_vch+vd)-1)))*f((vch+e_lsb-vs)/kT)+1/(1/(1+1/(1-Trans_0(-vch-avoid_vch+vs)))+1/(Trans_0(-vch-avoid_vch+vd)*(2/Trans_0(-vch-avoid_vch+vs)-1)))*f((vch+e_lsb-vd)/kT)'
.param TF_h_Ec1_h(vch, vs, vd) = '1/(1/(1+1/(1-Trans(-vch-avoid_vch+vd, Emax(-vch-e_lsb+max(vs, vd)))))+1/(Trans(-vch-avoid_vch+vs, Emax(-vch-e_lsb+max(vs, vd)))*(2/Trans(-vch-avoid_vch+vd, Emax(-vch-e_lsb+max(vs, vd)))-1)))*f((Emax(-vch-e_lsb+max(vs, vd))-(-vch-e_lsb+vs))/kT)+1/(1/(1+1/(1-Trans(-vch-avoid_vch+vs, Emax(-vch-e_lsb+max(vs, vd)))))+1/(Trans(-vch-avoid_vch+vd, Emax(-vch-e_lsb+max(vs, vd)))*(2/Trans(-vch-avoid_vch+vs, Emax(-vch-e_lsb+max(vs, vd)))-1)))*f((Emax(-vch-e_lsb+max(vs, vd))-(-vch-e_lsb+vd))/kT)'

.param Q_ch(vch, vs, vd) = '4/3*k1*((sqrt(Emax(-vch-e_lsb+max(vs, vd)))*TF_h_0(vch, vs, vd)+(log(1/(TF_h_Ec1_h(vch, vs, vd)/Ec2_ratio)-1)*kT-vch-e_lsb+max(vs, vd))*TF_h_Ec1_h(vch, vs, vd)/(sqrt(Emax(-vch-e_lsb+max(vs, vd)))+sqrt(log(1/(TF_h_Ec1_h(vch, vs, vd)/Ec2_ratio)-1)*kT-vch-e_lsb+max(vs, vd)))) - (sqrt(Emax(vch-e_lsb-min(vs, vd)))*TF_e_0(vch, vs, vd)+(log(1/(TF_e_Ec1_e(vch, vs, vd)/Ec2_ratio+avoid)-1)*kT+vch-e_lsb-min(vs, vd))*TF_e_Ec1_e(vch, vs, vd)/(sqrt(Emax(vch-e_lsb-min(vs, vd)))+sqrt(log(1/(TF_e_Ec1_e(vch, vs, vd)/Ec2_ratio+avoid)-1)*kT+vch-e_lsb-min(vs, vd)))))'
**************** Current ************
.param TF_I_e_Ec1_e(vch, vs, vd) = '1/(1/Trans(vch+avoid_vch-vs, Emax(vch-e_lsb-min(vs, vd)))+1/Trans(vch+avoid_vch-vd, Emax(vch-e_lsb-min(vs, vd)))-1)*(f((Emax(vch-e_lsb-min(vs, vd))-(vch-e_lsb-vs))/kT)-f((Emax(vch-e_lsb-min(vs, vd))-(vch-e_lsb-vd))/kT))*current_sign(V(nd, ns))' $ --mgg
.param TF_I_h_Ec1_h(vch, vs, vd) = '1/(1/Trans(-vch-avoid_vch+vs, Emax(-vch-e_lsb+max(vs, vd)))+1/Trans(-vch-avoid_vch+vd, Emax(-vch-e_lsb+max(vs, vd)))-1)*(f((Emax(-vch-e_lsb+max(vs, vd))-(-vch-e_lsb+vs))/kT)-f((Emax(-vch-e_lsb+max(vs, vd))-(-vch-e_lsb+vd))/kT))*current_sign(V(nd, ns))' $ --mgg
.param Ids(vch, vs, vd) = 'a_c(p) * 1/(P__pi*P__hbar)*0.5*(((1/(1/Trans_0(vch+avoid_vch-vs)+1/Trans_0(vch+avoid_vch-vd)-1)*(f(-(vch-e_lsb-vs)/kT)-f(-(vch-e_lsb-vd)/kT))*current_sign(V(nd, ns)))*Emax(vch-e_lsb-min(vs, vd))+TF_I_e_Ec1_e(vch, vs, vd)*(log(1/(TF_I_e_Ec1_e(vch, vs, vd)/Ec2_ratio+avoid)-1)*kT+vch-e_lsb-min(vs, vd)))-((1/(1/Trans_0(-vch-avoid_vch+vs)+1/Trans_0(-vch-avoid_vch+vd)-1)*(f((vch+e_lsb-vs)/kT)-f((vch+e_lsb-vd)/kT))*current_sign(V(nd, ns)))*Emax(-vch-e_lsb+max(vs, vd))+TF_I_h_Ec1_h(vch, vs, vd)*(log(1/abs(TF_I_h_Ec1_h(vch, vs, vd)/Ec2_ratio+avoid)-1)*kT-vch-e_lsb+max(vs, vd))))'
.param a_c(p) = '0.98 * to6(1-4*p) + 0.02'
*****************************************			


vgnd1 mgnd 0 0

* Cgs Cgd
.param Cgs_val = '1.26e-10 * Wgate * (0.8 - 0.2*Tox + 0.015*Tox*Tox)'
.param Cgch_val(L, Wgate, WGNR, Tox) = '(L*5.55e-11*P__epsSi) / ((1 + 1.5*Tox/Wgate) * log((5.98*Tox) / (0.8*WGNR)))'



*************************
* GNRFET Definition
*************************

* Parasitic Capacitors
Cgs ng ns c='nRib * Cgs_val'
Cgd ng nd c='nRib * Cgs_val'

* VCCS
gds nd ns cur='nRib * P__q*Ids(V(nch2), V(ns2), V(nd2))*current_sign(V(nd, ns))/DG_SG_ratio(V(ng2), V(nd2))'
.param DG_SG_ratio(Vg, Vd) = '1+(0.065*Tox+(0.0042*N+0.2))/(1+exp((-(abs(Vg-Vd/2)+Vd/2)+(0.01*N+0.17))/0.036))'
* Vch
cgch ng nch c='nRib * Cgch_val(L, Wgate, WGNR, Tox)'
cbch nb nch c='nRib * Cgch_val(L, Wgate, WGNR, Tox)'

ech nch mgnd  nch2 mgnd 1
es2 ns2 mgnd ns mgnd 1
* Vch Solver
eg2 ng2 mgnd ng mgnd 1
ed2 nd2 mgnd nd mgnd 1
eb2 nb2 mgnd nb mgnd 1
rdummy nch2 mgnd 1e15
rdummy2 nb2 mgnd 1e15
rdummy3 nch mgnd 1e15

* Scaled by P__q
.param Qcap(vch, vs, vd, vg, L, Wgate, WGNR, Tox) = '(-1/L)*Cgch_val(L, Wgate, WGNR, Tox)*(2*(Vg-Vch)+0.1*(Vd-Vch)+0.1*(Vs-Vch))'
gCins mgnd nch2 cur='Qcap(V(nch2), V(ns2), V(nd2), V(ng2), L, Wgate, WGNR, Tox)'

gQch nch2 mgnd cur='P__q*Q_ch(V(nch2),V( ns2), V(nd2))'


.ends gnrfetsb

.subckt gnrfetnmos nd ng ns nb nRib=4 n=12 L=15n Tox=1n sp=2n p=0 gates_tied='0' Tox2=20n sh=0.25

* Widths
.param WGNR = '(n/2 + 0.5) * sqrt(3) * 0.144e-9';
.param Wgate = 'WGNR + 2 * sp'

* Cgs Cgd
.param Cgs_val = '1.26e-10 * Wgate * (0.8 - 0.2*Tox + 0.015*Tox*Tox)'

* Cins
.param Cgch_val(L, Wgate, WGNR, Tox) = '(L*5.55e-11*P__epsSi) / ((1 + 1.5*Tox/Wgate) * log((5.98*Tox) / (0.8*WGNR)))'

xgnrfetsb1 nd ng2 ns nb2 gnrfetsb nRib=nRib n=n L=L Tox=Tox sp=sp p=p gates_tied=gates_tied Tox2=Tox2
eg ng2 ns poly(1) ng ns sh 1
eb nb2 ns nb ns 1
ech nch ns xgnrfetsb1.nch xgnrfetsb1.ns 1

* Parasitic Capacitors
Cgs ng ns c='nRib * Cgs_val'
Cgd ng nd c='nRib * Cgs_val'
cgch ng nch c='nRib * Cgch_val(L, Wgate, WGNR, Tox)'
cbch nb nch c='nRib * Cgch_val(L, Wgate, WGNR, Tox)'

.ends gnrfetnmos



.subckt gnrfetpmos nd ng ns nb nRib=4 n=12 L=15n Tox=1n sp=2n p=0 gates_tied='0' Tox2=20n sh=-0.25

* Widths
.param WGNR = '(n/2 + 0.5) * sqrt(3) * 0.144e-9';
.param Wgate = 'WGNR + 2 * sp'

* Cgs Cgd
.param Cgs_val = '1.26e-10 * Wgate * (0.8 - 0.2*Tox + 0.015*Tox*Tox)'

* Cins
.param Cgch_val(L, Wgate, WGNR, Tox) = '(L*5.55e-11*P__epsSi) / ((1 + 1.5*Tox/Wgate) * log((5.98*Tox) / (0.8*WGNR)))'

xgnrfetsb1 ns ng2 nd nb2 gnrfetsb nRib=nRib n=n L=L Tox=Tox sp=sp p=p gates_tied=gates_tied Tox2=Tox2
eg ng2 ns poly(1) ng ns sh 1
eb nb2 ns nb ns 1
ech nch ns xgnrfetsb1.nch xgnrfetsb1.ns 1

* Parasitic Capacitors
Cgs ng ns c='nRib * Cgs_val'
Cgd ng nd c='nRib * Cgs_val'
cgch ng nch c='nRib * Cgch_val(L, Wgate, WGNR, Tox)'
cbch nb nch c='nRib * Cgch_val(L, Wgate, WGNR, Tox)'

.ends gnrfetpmos


.unprotect
.endl GNRFET
